US07402672B2
3-(3-Nitro-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-18
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(3-nitrophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-18 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.59 (bs, 1H), 8.45 (dd, 1H, J=1.5, 4.6 Hz), 8.11 (bs, 1H), 7.96-7.81 (m, 4H), 7.50 (m, 2H), 7.33 (dd, 1H, J=4.5, 8.4 Hz); Obs 315.1 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3-nitrophenyl)disulfide | 1.1 equiv | [N+](=O)([O-])C=1C=C(C=CC1)SSC1=CC(=CC=C1)[N+](=O)[O-] | C12H8N2O4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-Nitro-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | [N+](=O)([O-])C=1C=C(C=CC1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H10N4O3S
